US04287195
A mixture of 6 parts of N-(2,2-dimethoxyethyl)-4-(4-hydroxyphenyl)-1-piperazinecarbothioamide and 25 parts of a diluted hydrochloric acid solution is stirred overnight at room temperature. Upon the addition of sodium hydrogen carbonate, the product is allowed to crystallize. It is filtered off and recrystallized from ethanol, yielding 4.3 parts (73%) of 4-[4-(4,5-dihydro-5-methoxy-2-thiazolyl)-1-piperazinyl]phenol; mp. 165.6° C.

reactant | N-(2,2-dimethoxyethyl)-4-(4-hydroxyphenyl)-1-piperazinecarbothioamide | COC(CNC(=S)N1CCN(CC1)C1=CC=C(C=C1)O)OC | C15H23N3O3S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-[4-(4,5-dihydro-5-methoxy-2-thiazolyl)-1-piperazinyl]phenol | 73% | COC1CN=C(S1)N1CCN(CC1)C1=CC=C(C=C1)O | C14H19N3O2S
